US06174840B1
4,5,6,6a-Tetrahydro-2-(4-acetylphenyl)-1(3aH)pentalenone
A solution of Perrier complex was prepared from acetyl chloride (663mg, 8.45 mmol) and aluminimum chloride (1.13 g, 8.45 mmol) in dichloromethane (5 ml) and 4,5,6,6a-tetrahydro-2-phenyl-1(3aH)pentalenone (335 mg, 1.69mmol) in dichloromethane (95 ml) was added at 0° C. The mixture was heated under reflux for 48 h, then poured onto ice, extracted with dichloromethane and the extract washed with aqueous potassium carbonate and dried (MgSO4). After removal of solvent the residue was chromatographed. Ethyl acetate—n-hexane (1:2) eluted unreacted starting ketone (17 mg) followed by the title product (277 mg, 68%), yellowish crystals, m.p. 76-77° C.

reactant | acetyl chloride | 8.45 mmol, 663mg | C(C)(=O)Cl | C2H3ClO
reactant | 4,5,6,6a-tetrahydro-2-phenyl-1(3aH)pentalenone | 1.69mmol, 335 mg | C1(=CC=CC=C1)C=1C(C2CCCC2C1)=O | C14H14O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
product | 4,5,6,6a-Tetrahydro-2-(4-acetylphenyl)-1(3aH)pentalenone | C(C)(=O)C1=CC=C(C=C1)C=1C(C2CCCC2C1)=O | C16H16O2
